US09315521B2
To a 0° C. solution of 1-ethyl-4-methyl-1H-imidazole-5-carbaldehyde (806 mg, 5.8 mmol) in anhydrous methanol (55 mL) was added sodium borohydride (500 mg, 13.2 mmol). The reaction mixture was stirred at room temperature overnight. Water (30 mL) was added. The mixture was evaporated. The resultant residue was treated with EtOAc (50 mL). The solution was dried over MgSO4, filtered, evaporated, and dried in vacuo, affording (1-ethyl-4-methyl-1H-imidazol-5-yl)methanol (754 mg, 93% yield). The product was used without further purification.

reactant | 1-ethyl-4-methyl-1H-imidazole-5-carbaldehyde | 5.8 mmol, 806 mg | C(C)N1C=NC(=C1C=O)C | C7H10N2O
reactant | sodium borohydride | 13.2 mmol, 500 mg | [BH4-].[Na+]
reactant | Water | 30 mL | O | H2O
solvent | methanol | 55 mL | CO | CH4O
product | (1-ethyl-4-methyl-1H-imidazol-5-yl)methanol | 754 mg, 93% yield | C(C)N1C=NC(=C1CO)C | C7H12N2O
